US09422293B2
(4-tert-Butyl-phenyl)-[2-morpholin-4-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-amine
To a solution of 4-chloro-2-morpholin-4-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine (30 mg, 0.08 mmol) in n-BuOH (2 mL) was added 4-tert-butylaniline (23 μL, 0.15 mmol). The mixture was heated in the microwave at 180° C. for 90 min, then was cooled to rt, diluted with MeOH, and filtered through quaternary amine resin, carbonate form (500 mg). The filtrate was concentrated and the residue was purified (FCC) to give the title compound (39 mg, 99%). MS (ESI): mass calcd. for C28H33F3N6O, 526.27; m/z found, 527.2 [M+H]+. 1H NMR (CDCl3): 8.40-8.37 (m, 1H), 7.87 (d, J=1.8 Hz, 1H), 7.48-7.43 (m, 2H), 7.37-7.31 (m, 2H), 6.96-6.89 (m, 1H), 6.35 (s, 1H), 3.80-3.70 (m, 8H), 3.64-3.54 (m, 4H), 3.11-3.04 (m, 2H), 2.88-2.82 (m, 2H), 1.33 (s, 9H).

reactant | 4-chloro-2-morpholin-4-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine | 0.08 mmol, 30 mg | ClC1=NC(=NC=2CCN(CCC21)C2=NC=CC=C2C(F)(F)F)N2CCOCC2 | C18H19ClF3N5O
reactant | 4-tert-butylaniline | 0.15 mmol, 23 μL | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | n-BuOH | 2 mL | CCCCO | C4H10O
solvent | MeOH | CO | CH4O
product | (4-tert-Butyl-phenyl)-[2-morpholin-4-yl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-amine | 39 mg, 99% | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=2CCN(CCC21)C2=NC=CC=C2C(F)(F)F)N2CCOCC2 | C28H33F3N6O
